US05693635
2-Methyl-N-[4-[(5(6H)-phenanthridinyl)carbonyl]-phenyl]benzamide
To a solution of 0.181 g (1.0 mmol) of 5,6-dihydrophenanthridine in 2 ml of warm pyridine is added 0.273 g (1.0 mmol) of 4-[(2-methylbenzoyl)amino]-benzoyl chloride. The mixture is stirred overnight at room temperature, 1.2 ml of 2N HCl added. The solid which separates is filtered and washed with water. The solid is dissolved in dichloromethane and the solution washed with 2M sodium carbonate. The organic layer is concentrated and the residue chromatographed twice on silica gel with ethyl acetate-hexane as solvent to give 79 mg of crystals, m.p. 190°-194° C. Mass Spec-FAB 419 (M+R). Anal. Calc'd for C28H20N2O2H2O: C,77.4; H,5.1; N,6.4. Found: C,77.5; H,5.1; N,6.4.

reactant | 5,6-dihydrophenanthridine | 1.0 mmol, 0.181 g | C1=CC=CC=2NCC3=CC=CC=C3C12 | C13H11N
reactant | 4-[(2-methylbenzoyl)amino]-benzoyl chloride | 1.0 mmol, 0.273 g | CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO2
reactant | HCl | 2N, 1.2 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 2-Methyl-N-[4-[(5(6H)-phenanthridinyl)carbonyl]-phenyl]benzamide | 79 mg | CC1=C(C(=O)NC2=CC=C(C=C2)C(=O)N2C=3C=CC=CC3C3=CC=CC=C3C2)C=CC=C1 | C28H22N2O2
